simulator lang=spectre
global 0

Vvdd (VDD 0) vsource dc=0.9
Vvss (VSS 0) vsource dc=0
Vclk (CLK 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=20p fall=20p width=1n period=4n
Vinp (VINP 0) vsource type=pulse val0=0.448 val1=0.452 delay=3n rise=50p fall=50p width=12n period=24n
Vinn (VINN 0) vsource dc=0.450

XDUT (VDD VSS CLK VINP VINN OUT_P) cmp_offset_ref

tran tran stop=28n maxstep=20p
save CLK VINP VINN OUT_P

ahdl_include "cmp_offset_ref.va"
